2131-01-18 07:48:00 Physician Resident Progress Note
Chief Complaint: shortness of breath
   24 Hour Events:
   - CT chest per rads, prelim cannot rule out TB (likely atypical
   mycoplasma)- send sputum AFBs, isolation/respiratory precautions for
   rule out.
   Prelim CT chest read:
   Right upper lobe irregular consolidation and nodularity, with variable
   sized cavities at the right apex; suggesting infection, cannot rule out
   TB. Background of severe emphysema. Tiny bilateral pleural effusions
   with atelectasis.
   - CT head completed: f/u final CT reports.
   Prelim CT head read:
   1. No intracranial hemorrhage. Pan-sinus disease with fluid in right
   maxillary and sphenoid air cells; complete opacification of right
   mastoid air cells.
   2. Subgaleal low attenuation fluid collection overlying right occiput,
   max 10mm depth. No underlying bony abnormality.
   - left a line placed.
   - Family updated.
   - follow-up cardiac enzymes, trop 0.4 x2
   - appeared dry on exam in early AM, with BUN elevated and Cr trending
   down. Gave 500cc NS bolus at 6:30 AM.
   Allergies:
   Tramadol
   Unknown;
   Oxycodone
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2131-1-17**] 08:46 PM
   Metronidazole - [**2131-1-18**] 01:44 AM
   Infusions:
   Propofol - 17 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2131-1-17**] 05:30 PM
   Fentanyl - [**2131-1-17**] 11:46 PM
   Famotidine (Pepcid) - [**2131-1-18**] 01:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies pain.
   Flowsheet Data as of  [**2131-1-18**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.2
   HR: 94 (73 - 97) bpm
   BP: 96/52(66) {66/38(46) - 152/64(93)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,843 mL
                                                                    346 mL
   PO:
             TF:
             30 mL
   IVF:
                                                                    843 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  2,550 mL
                                                                    445 mL
   Urine:
                                                                    600 mL
                                                                    445 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,293 mL
                                                                    -99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 27 cmH2O
   Plateau: 14 cmH2O
   Compliance: 71.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.34/61/86/31/4
   Ve: 7.4 L/min
   PaO2 / FiO2: 172
   General: Intubated, slightly sedated, no distress.
   HEENT: Sclera anicteric, PERRL, MMM, oropharynx clear.  Subcutaneous
   fluctuant collection on posterior head more on left side.
   Neck: obese, supple, JVD elevation difficult to appreciate, slightly
   erythematous ?lymph node at angle of mandible on left side.
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi but
   prolonged expiratory phase.
   CV: Regular rate and rhythm, normal S1 + S2, [**12-23**] SM at RUSB with some
   radiation to carotids, and [**12-23**] holosystolic murmur at apex.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Neuro: needs assessment off sedation.  Hyperreflexic L patellar reflex
   compared to right.  Withdraws bilaterally to babinski
   Labs / Radiology
   133 K/uL
   7.8 g/dL
   151 mg/dL
   2.8 mg/dL
   31 mEq/L
   3.9 mEq/L
   66 mg/dL
   103 mEq/L
   144 mEq/L
   23.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2131-1-17**]  05:23 PM
                             [**2131-1-18**]  01:24 AM
                             [**2131-1-18**]  01:54 AM
                             [**2131-1-18**]  02:27 AM
   WBC
   5.7
   6.0
   Hct
   26.1
   23.6
   Plt
   145
   133
   Cr
   3.5
   2.8
   TropT
   0.04
   TCO2
   32
   34
   Glucose
   130
   151
   Other labs: PT / PTT / INR:13.4/29.4/1.1, CK / CKMB /
   Troponin-T:253/6/0.04, Lactic Acid:0.7 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.1 mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
MICRO:
     SPUTUM GRAM STAIN (Final [**2131-1-18**]):
      >25 PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI. IN PAIRS.
   URINE LEGIONELLA NEGATIVE
   Blood cultures pending
   Assessment and Plan
   70F with history of COPD on home O2, HTN, presenting with shortness of
   breath now with hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure.  Family gives history of being more
   tired and lethargic x few days, perhaps due to hypoventilation.
   Patient with severe COPD at baseline, presenting with hypoxia and ABG
   showing acute on chronic respiratory acidosis.  Possible viral prodrome
   with resultant COPD exacerbation.  Also with OSA and ?recent with CPAP
   compliance per family - this may have worsened hypoventilation.  Also
   concern of patient falling - CNS bleed ruled out by prelim head CT
   read.  Patient with baseline hypoxia but was significantly hypoxic upon
   presentation - obstructive disease vs. fluid overload vs. infectious
   process.
   - f/u final read of  head and chest CTs.
   - Frequent neuro checks.
   - Workup of ?RUL process (simple nodule/tumor (BAC in particular) vs.
   post obstructive or consolidative process - will send for chest CT at
   same time. Also will send AFB sputums to r/o TB, continue respiratory
   airborne precautions.
   - Consider viral swabs.
   - F/u sputum culture, and blood cultures.
   - Check TTE for eval valvular disease and systolic function.
   - Coverage of CAP and aspiration pneumonias with levo/flagyl; will also
   give vanc for MRSA coverage though less likely.
   - COPD exacerbation management with solumedrol (60 IV Q8 tonight and
   starting 60 pred this AM).
   - ATC and prn nebs.
   - Hold off on diuresis for now, though may need some prior to
   extubation.
   - Continue on AC settings while workup being done; SBT as early as AM
   though may be prolonged course before ready for vent liberation given
   underlying lung disease.  Need to discuss concerns further with family
   after above workup completed.
   .
   # Borderline hypotension.  Improving as course goes on, now SBPs >100
   consistently.  Concern initially for sepsis/severe pneumonia, but may
   be simply dry from history of poor PO intake.
   - Bolus prn, watch UOP.
   - Hold off on CVL for now.
   .
   # COPD.  Exacerbation as above.
   - Steroids IV and start PO prednisone tomorrow.
   - Antibiotics as above.
   .
   # Acute Renal Failure: BUN/Cr in ED 69/4.2 (recent past was 1.2 in
   [**Month (only) 2139**]). Likely prerenal d/t poor forward flow and hypovolemia, vs.
   distributive or cardiogenic shock.  Improving with Cr of 2.8 this
   morning.
   -- Monitor strict ins and outs.
   -- Trend BUN/Cr.
   -- Avoid nephrotoxic drugs and renally dose all medications.
   -- Hold ACEI.
   --  More likely prerenal now, can give gentle IVF until better
   assessment of cardiac function.
   .
   # ECG changes.  Minimal STEs vs. PR depressions.  First 2 sets CEs
   underwhelming.
   - Continue to cycle.
   - ECG this morning.
   - Check TTE.
   .
   # Anemia and thrombocytopenia.  Hct last known 29 in [**Month (only) 2139**].  Unclear
   reason for low plts.
   - Given results of B12, folate, Fe studies likely anemia of chronic
   disease d/t underlying COPD.
   - Guaiac stools.
   - No meds to suggest cause for decreased PLTs; stable since admission.
   Check smear.
   - TSH normal.
   .
   # OSA.
   - CPAP at night once extubated.
   .
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2131-1-18**] 04:16 AM 10 mL/hour
   Glycemic Control:  ISS while on steroids if needed
   Lines:
   18 Gauge - [**2131-1-17**] 04:51 PM
   Arterial Line - [**2131-1-17**] 11:55 PM
   FEN: bolus IVFs prn, replete electrolytes, start TFs.
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals
   Code:  Full
   Communication:  patient and daughter [**Name (NI) **] is HCP
   Disposition: pending clinical improvement

2131-01-19 07:28:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure, SOB
   24 Hour Events:
   - TTE: Mild LVH, EF 75%, mild diastolic dysfxn
   - CXR: RUL PNA vs. neoplasm
   - underwent bronchoscopy, sputum cx obtained, gram stain from BAL
   negative
   - endotracheal sputum gram stain demonstrated GPC's in pairs
   - Urine lytes: FeNa 0.2%, FeUrea 35%
   - PM lytes demonstrated improving Cr to 2.4
   - Family updated
   - Was on PSV of [**3-21**] overnight. Now getting SBT with repeat gas.
   Most recent ABG: 7.32/ 69/ 113/ 37
   Allergies:
   Tramadol
   Unknown;
   Oxycodone
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2131-1-18**] 01:44 AM
   Levofloxacin - [**2131-1-18**] 07:56 PM
   Infusions:
   Propofol - 9 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2131-1-18**] 01:10 PM
   Midazolam (Versed) - [**2131-1-18**] 01:25 PM
   Morphine Sulfate - [**2131-1-18**] 10:40 PM
   Heparin Sodium (Prophylaxis) - [**2131-1-18**] 11:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies pain.
   Flowsheet Data as of  [**2131-1-19**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 67 (67 - 106) bpm
   BP: 131/54(81) {103/45(64) - 148/66(95)} mmHg
   RR: 9 (9 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,676 mL
                                                                     78 mL
   PO:
             TF:
                                                                    478 mL
   IVF:
                                                                  1,928 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    695 mL
   Urine:
                                                                  1,580 mL
                                                                    695 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,096 mL
                                                                   -617 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 479 (327 - 479) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 73
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   Compliance: 45.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.32/69/113/34/6
   Ve: 5.5 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General: Intubated, alert, no distress.
   HEENT: Sclera anicteric, PERRL, MMM.  Subcutaneous fluctuant collection
   on posterior head stable.
   Neck: obese, supple, JVD elevation difficult to appreciate.
   Lungs: Clear to auscultation bilaterally, soft expiratory wheezes
   anteriorly and prolonged expiratory phase.
   CV: Regular rate and rhythm, normal S1 + S2.
   Abdomen:  soft, appears non-tender, non-distended, bowel sounds
   present, no rebound tenderness or guarding, no organomegaly.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   181 K/uL
   8.2 g/dL
   98 mg/dL
   1.8 mg/dL
   34 mEq/L
   4.5 mEq/L
   68 mg/dL
   106 mEq/L
   145 mEq/L
   25.8 %
   6.9 K/uL
        [image002.jpg]
                             [**2131-1-17**]  05:23 PM
                             [**2131-1-18**]  01:24 AM
                             [**2131-1-18**]  01:54 AM
                             [**2131-1-18**]  02:27 AM
                             [**2131-1-18**]  03:26 PM
                             [**2131-1-19**]  03:58 AM
                             [**2131-1-19**]  04:17 AM
   WBC
   5.7
   6.0
   6.9
   Hct
   26.1
   23.6
   25.8
   Plt
   145
   133
   181
   Cr
   3.5
   2.8
   2.4
   1.8
   TropT
   0.04
   0.04
   TCO2
   32
   34
   37
   Glucose
   130
   151
   146
   98
   Other labs: PT / PTT / INR:12.5/27.3/1.1, CK / CKMB /
   Troponin-T:200/5/0.04, Differential-Neuts:91.7 %, Lymph:6.3 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:3.0 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR [**1-18**]: Right upper lobe process is consistent with pneumonia
   or neoplasm.
   Final Chest CT read:
   IMPRESSION:
   1. Probably right upper lobe pneumonia. Six-week followup radiograph to
   document resolution is recommended to exclude an underlying neoplasm.
   2. Bibasilar atelectasis and small nonhemorrhagic pleural effusions.
   3. T8 compression fracture of indeterminate chronicity.
   4. Right renal cyst, incompletely characterized. Recommend correlation
   with
   US.
   5. Probable pulmonary hypertension.
   Final Head CT Read:
   MPRESSION:
   1. No intracranial hemorrhage or acute intracranial abnormality.
   2. 10-mm subgaleal low-attenuation fluid collection, without underlying
   bony
   abnormality or inflammatory change in the overlying subcutaneous
   tissues.
   3. Pansinus disease, with fluid in the right maxillary and sphenoid air
   cells
   and complete opacification of right mastoid air cells.
   ECHO: mildly dilated LA. There is mild symmetric left ventricular
   hypertrophy. The left ventricular cavity is small. Regional left
   ventricular wall motion is normal. Hyperdynamic LV systolic fcn
   (EF>75%). Doppler parameters are most consistent with Grade I (mild)
   left ventricular diastolic dysfunction. There is no ventricular septal
   defect. Right ventricular chamber size and free wall motion are normal.
   The ascending aorta is moderately dilated. Trivial MR. There is a very
   small pericardial effusion.
   IMPRESSION: Small, hypertrophied, hyperdynamic left ventricle. No
   clinically-significant valvular disease seen.
   Microbiology: BAL [**1-18**]: gram stain neg. No microorganisms seen.
   Rapid Respiratory Viral Screen & Culture
   pending.
   GRAM STAIN (Final [**2131-1-18**]):
   2+   GRAM POSITIVE COCCI IN PAIRS.
   AFB sputum neg x 1. BAL pending.
   Blood cultures pending.
   ASSESSMENT AND PLAN:
   70F with history of COPD on home O2, HTN, presenting with shortness of
   breath now with hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure: COPD exacerbation most likely
   triggered by pneumonia given results of sputum gram stain and mild
   fluid overload secondary to diastolic dysfunction.
   - Chest CTs final read most c/w PNA, but will repeat radiographs in 6
   weeks to evaluate further for possible neoplasm.
   - F/u final sputum culture prelim GPC in pair, likely pneumococcus.
   - F/u final  blood cultures NG x 2 days.
   - Initially, started on CAP and aspiration PNA coverage with
   levo/flagyl and vanco.  Now on levoflox only after sputum prelim
   obtained.
   - Systolic function hyperdynamic, but pt with mild diastolic heart
   dysfunction; continue to hold off on diuretics unless needed.
   - COPD exacerbation management with steroids; on 60 mg pred daily, ATC
   and nebs.
   - SBT this AM with repeat gas to assess if ready for extubation showed
   increasing PCO2 and decreasing pH. Will give 20 mg IV Lasix x 1 in
   attempt to offset some of pt
s metabolic acidosis that may be
   contributing to acidemia, and will attempt extubation later today.
   .
   # Borderline hypotension.  Improving as course goes on, now SBPs >100
   consistently.  Concern initially for sepsis/severe pneumonia, but may
   be simply dry from history of poor PO intake.
   - Bolus prn, watch UOP.
   .
   # COPD.  Exacerbation as above.
   - Continue PO prednisone.
   - Antibiotics as above.
   .
   # Acute Renal Failure: BUN/Cr in ED 69/4.2 (recent past was 1.2 in
   [**Month (only) 2139**]). Likely prerenal given BUN/Cr >20%, FeNa 0.2% and FeUrea 35%.
   Likely d/t poor forward flow and hypovolemia.  Improving with Cr of 1.8
   this morning.
   -- Monitor strict ins and outs.
   -- Trend BUN/Cr, improved today at 68/1.8.
   -- Avoid nephrotoxic drugs and renally dose all medications.
   -- Continue to hold ACEI
   .
   # ECG changes.  Minimal STEs vs. PR depressions.  CEs underwhelming.
   - ECG without acute changes.
   .
   # Anemia and thrombocytopenia.  Hct last known 29 in [**Month (only) 2139**].  Unclear
   reason for low plts, but these are improved today at 181.
   - Given results of B12, folate, Fe studies likely anemia of chronic
   disease d/t underlying COPD. HCT stable today at 25.8.
   - Guaiac stools.
   - No meds to suggest cause for decreased PLTs; stable since admission.
   Trend.
   - TSH normal.
   .
   # OSA.
   - CPAP at night once extubated.
   .
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2131-1-18**] 04:16 AM 10 mL/hour
   Glycemic Control:  ISS while on steroids if needed
   Lines:
   18 Gauge - [**2131-1-17**] 04:51 PM
   Arterial Line - [**2131-1-17**] 11:55 PM
   FEN: bolus IVFs prn, replete electrolytes, continue TFs.
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals
   Code:  Full
   Communication:  patient and daughter [**Name (NI) **] is HCP
   Disposition: pending clinical improvement

2131-01-20 07:59:00 Physician Resident Progress Note
Chief Complaint: SOB, hypercarbic respiratory failure
   24 Hour Events:
   - put out 500ccs urine after 20 mg IV lasix
   - extubated, ABG 7.32/76/79
   - put on auto set CPAP overnight (was on at home)
   - fluid balance -2300 since midnight at 20:00
   Allergies:
   Tramadol
   Unknown;
   Oxycodone
   Unknown;
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2131-1-18**] 01:44 AM
   Levofloxacin - [**2131-1-19**] 07:56 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-1-19**] 08:41 AM
   Furosemide (Lasix) - [**2131-1-19**] 11:17 AM
   Heparin Sodium (Prophylaxis) - [**2131-1-19**] 09:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-1-20**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**32**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 79 (69 - 103) bpm
   BP: 172/79(112) {145/55(84) - 181/86(120)} mmHg
   RR: 20 (17 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    979 mL
                                                                    260 mL
   PO:
                                                                    590 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    299 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  3,285 mL
                                                                    740 mL
   Urine:
                                                                  3,285 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,306 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 356 (310 - 356) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 92%
   ABG: 7.34/70/87.[**Numeric Identifier 181**]/38/8
   Ve: 6.3 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General: alert + oriented x 3, no distress.
   HEENT: Sclera anicteric, PERRL, MMM.  Subcutaneous fluctuant collection
   on posterior head stable.
   Neck: obese, supple, JVD elevation difficult to appreciate.
   Lungs: Clear to auscultation bilaterally, soft expiratory wheezes
   anteriorly and prolonged expiratory phase.
   CV: Regular rate and rhythm, normal S1 + S2.
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly.
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema.
   Labs / Radiology
   195 K/uL
   8.7 g/dL
   90 mg/dL
   1.1 mg/dL
   38 mEq/L
   4.2 mEq/L
   57 mg/dL
   105 mEq/L
   147 mEq/L
   27.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2131-1-18**]  01:54 AM
                             [**2131-1-18**]  02:27 AM
                             [**2131-1-18**]  03:26 PM
                             [**2131-1-19**]  03:58 AM
                             [**2131-1-19**]  04:17 AM
                             [**2131-1-19**]  08:07 AM
                             [**2131-1-19**]  10:08 AM
                             [**2131-1-19**]  04:36 PM
                             [**2131-1-20**]  03:58 AM
                             [**2131-1-20**]  04:19 AM
   WBC
   6.0
   6.9
   7.0
   Hct
   23.6
   25.8
   27.0
   Plt
   133
   181
   195
   Cr
   2.8
   2.4
   1.8
   1.1
   TropT
   0.04
   TCO2
   34
   37
   38
   38
   41
   39
   Glucose
   151
   146
   98
   90
   Other labs: PT / PTT / INR:12.5/27.3/1.1, CK / CKMB /
   Troponin-T:200/5/0.04, Differential-Neuts:91.7 %, Lymph:6.3 %, Mono:1.8
   %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:3.0 g/dL, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Microbiology: negative respiratory viral screen
   GPCs on sputum gram stain
   sparse GNRs on sputum culture
   Assessment and Plan
   70F with history of COPD on home O2, HTN, presenting with shortness of
   breath now with hypercarbic respiratory failure.
   .
   # Hypercarbic respiratory failure: COPD exacerbation most likely
   triggered by pneumonia given results of sputum gram stain and mild
   fluid overload secondary to diastolic dysfunction. Extubated yesterday
   without difficulty. Most recent ABG reassuring.
   - Chest CTs final read most c/w PNA, but will repeat radiographs in 6
   weeks to evaluate further for possible neoplasm.
   - F/u final sputum culture prelim GPC in pair, likely pneumococcus.
   - F/u final  blood cultures NG x 2 days.
   - Initially, started on CAP and aspiration PNA coverage with
   levo/flagyl and vanco.  Now on levoflox only after sputum prelim
   obtained.
   - COPD exacerbation management with steroids; on 60 mg pred daily,
   could start tapering. Continue bronchodilator therapy.
   .
   # COPD.  Exacerbation as above.
   - Continue PO prednisone.
   - Antibiotics as above.
   .
   # Acute Renal Failure: BUN/Cr in ED 69/4.2 (recent past was 1.2 in
   [**Month (only) 2139**]). Likely prerenal given BUN/Cr >20%, FeNa 0.2% and FeUrea 35%.
   Likely d/t poor forward flow and hypovolemia.  Improving with Cr of 1.1
   this morning.
   -- Monitor strict ins and outs.
   -- Trend BUN/Cr, improved today at 57/1.1.
   -- Avoid nephrotoxic drugs and renally dose all medications.
   -- Continue to hold ACE-I
   .
   # Anemia and thrombocytopenia.  Hct last known 29 in [**Month (only) 2139**].  Unclear
   reason for low plts, but these are improved today at 195.
   - Given results of B12, folate, Fe studies likely anemia of chronic
   disease d/t underlying COPD. HCT stable today at 27.
   - Trend.
   - TSH normal.
   .
   # OSA.
   - CPAP at night now that pt is extubated.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2131-1-18**] 04:16 AM 10 mL/hour
   Glycemic Control:  ISS while on steroids if needed
   Lines:
   18 Gauge - [**2131-1-17**] 04:51 PM
   Arterial Line - [**2131-1-17**] 11:55 PM
   FEN: bolus IVFs prn, replete electrolytes, continue TFs.
   Prophylaxis: Subutaneous heparin, H2B
   Access: peripherals
   Code:  Full
   Communication:  patient and daughter [**Name (NI) **] is HCP
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Pt seen and evaluated with team. Please see above note for details of
   current hx, plan and exam.
   In addition:
   70 yr woman with COPD on home oxygen. Here for Hypercarbic resp
   failure. Extubated on hosp day 2 and did well.
   ABG
 7.34/70/88 on 5 liters
   Fluids
 neg 2.3 liters
   98.8  79  172/79   20   92% on [**1-19**] liters NC
   Alert oriented X 3
   Expiratory Wheezes
   Otherwise unremarkable
   Labs: As above. Largely unchanged
   No new imaging
   Plan: Continue on oxygen at 3-5 liters
             Complete course of Levoflox, Flagyl for CAP; ? Aspiration
             BiPAP for OSA
             On maximal bronchodilator program
 nebs, albuterol prn.
             Taper steroids
   Time Spent:  30 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 206**], MD
   on:[**2131-1-20**] 12:38 ------